US07855211B2
6-Amino-2-methyl-3′,4′,5′,6′-tetrahydro-2′H-[3,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester
Stir a mixture of 6-amino-2-methyl-3′,6′-dihydro-2′H-[3,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester (2.12 g) and palladium on carbon 10% wet (330 mg) in methanol (29.30 mL) under H2 (45 psi) for 48 h. Filtered over a celite pad and remove the solvent under vacuum to afford 2.07 g of the title compound. MS (ES+): m/z=292 (M+H)+.

reactant | 6-amino-2-methyl-3′,6′-dihydro-2′H-[3,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester | 2.12 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C=1C(=NC(=CC1)N)C | C16H23N3O2
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | 29.30 mL | CO | CH4O
product | 6-Amino-2-methyl-3′,4′,5′,6′-tetrahydro-2′H-[3,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester | 2.07 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1C(=NC(=CC1)N)C | C16H25N3O2
